US07678810B2
A Dess-Martin reagent (516 mg) was added to a solution of 3-(2-hydroxyethyl)oxazolidin-2-one (144 mg) in dichloromethane (5.0 ml), and the mixture was stirred for 1 hour at room temperature. The solvent was evaporated off to obtain crude crystals, (2-oxooxazolidin-3-yl)acetaldehyde without purification. A solution of ammonium acetate (771 mg) in methanol (5.0 ml) was added to a suspension of (2-oxooxazolidin-3-yl)acetaldehyde and Compound 204 (286 mg) in tetrahydrofuran (10 ml), and the mixture was stirred for 2 weeks at room temperature. The reaction solution was neutralized with a saturated aqueous solution of sodium hydrogen carbonate and then extracted twice with ethyl acetate. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated. The residue was purified by NH silica gel column chromatography (chloroform→chloroform:methanol=95:5) and then recrystallized (methanol-ethyl acetate-hexane) to yield the title compound (149 mg) as a colorless powder (mp: 232.0-233.0° C.)

reactant | Dess-Martin reagent | 516 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 3-(2-hydroxyethyl)oxazolidin-2-one | 144 mg | OCCN1C(OCC1)=O | C5H9NO3
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | (2-oxooxazolidin-3-yl)acetaldehyde | O=C1OCCN1CC=O | C5H7NO3
